US03984407
2-(1-Indenyl)ethanol
The above compound is prepared as described by Howell & Taylor, J.C.S., 1957, 3013. To butyl-lithium, prepared from lithium (20.0 g.) and butyl bromide (234 g.) in ether, indene (116 g., 1.0 M) is added with stirring under nitrogen at -10°. After 1 hour at -10° ethylene oxide (88 g.) in ether (300 ml.) is added in one-half hour. After warming to 10°, 500 ml. water is added cautiously and stirring is continued until there is no lithium remaining. The layers are separated and the organic layer is washed once with dilute HCl and three times with water. After drying, the ether is removed and the product distilled, collecting 76 g. (48%) at 125-135/0.2 mm. N.M.R. establishes the position of the double bond as 2,3.

reactant | butyl-lithium | C(CCC)[Li]
reactant | lithium | 20.0 g | [Li] | Li
reactant | butyl bromide | 234 g | C(CCC)Br | C4H9Br
reactant | indene | 1.0 M, 116 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | ethylene oxide | 88 g | C1CO1 | C2H4O
solvent | ether | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(1-Indenyl)ethanol | C1(C=CC2=CC=CC=C12)CCO | C11H12O
